Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
epinephrine
 
Attending: ___.
 
Chief Complaint:
S/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ female who had a witnessed mechanical 
fall after getting out of bed this morning. She has a 24-hour 
private home nurse who reports that patient did not lose 
consciousness or hit her head, and that she fell onto her right 
side backwards into a wooden table. She was caught before she 
could fall. She initially presented to ___ where she had 
reported lower back and arm pain, and she received a CT thoracic 
and lumbar spine which demonstrated right ___ rib fractures, 
T5-8 transverse process fractures, and T7, T8, and T10 
compression fractures of unclear chronicity. She is transferred 
to ___ for trauma evaluation. She currently reports pleuritic 
right chest pain overlying her rib fractures and some mild 
dyspnea, however she is saturating in the high ___. She reports 
severe back pain which she states is new and not chronic pain. 
She denies head or neck pain, but she does report left elbow and 
bilateral knee pain.

 
Past Medical History:
Aortic valve stenosis s/p TAVR (___)
CAD s/p DES (___)
CHFpEF
HTN
Hypothyroidism
Lymphoma
IBS
Multiple myeloma
osteoporosis
hearing loss
Dementia
Depression
Malnutrition

Past Surgical History:
TAVR
DES

 
Social History:
___
Family History:
Non-contributory.

 
Physical Exam:
Physical Exam on Admission:
Vitals: 98.5 141/96 88 24 96% room air
GEN: A&O, NAD, GCS 15
HEENT: Anicteric, pupils 3 mm and reactive.  Mucous membranes
moist, no midline neck tenderness, stable facial bones, no
hemotympanum or blood in nares, dentition intact
CV: RRR
PULM: Breathing comfortably on room air.  Tender overlying right
lateral and posterior chest
Back: Tenderness overlying right posterior thorax as well as mid
thoracic spine.
ABD: Soft, nondistended, nontender, E-fast negative 
Ext: Tenderness overlying left elbow with full range of motion. 
Restricted motion in bilateral knees due to pain.  Full range of
motion without pain in right upper extremity and right ankle.
Left ankle tenderness.  Scattered ecchymoses of variable
chronicity overlying all extremities.
Neuro: Bilateral intact strength and sensation in all 4
extremities

Physical Exam on Discharge:

 
Pertinent Results:
___ 05:30AM BLOOD WBC-11.4* RBC-3.44* Hgb-10.7* Hct-32.8* 
MCV-95 MCH-31.1 MCHC-32.6 RDW-14.2 RDWSD-49.1* Plt ___
___ 05:30AM BLOOD ___ PTT-27.6 ___
___ 05:30AM BLOOD Glucose-106* UreaN-13 Creat-0.4 Na-130* 
K-4.2 Cl-93* HCO3-26 AnGap-11
___ 05:30AM BLOOD Calcium-9.4 Phos-3.2 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ year old female, who had a witnessed fall at 
home and was brought to ___ to be evaluated for injuries. 
Imaging done upon admission showed that the patient had 
sustained injuries including right ___ rib fractures, T4-7 
transverse process fracture, as well as chronic T7-8, L3 
compression fracture, and chronic T6 vertebral body fracture. 
She was admitted to the floor for close observation. Physical 
therapy worked with her and recommended that she continue to 
work with ___ inpatient so that she can go home (normally has 24 
hour care at home). She was encouraged to use the incentive 
spirometer and to ambulate OOB. Pain control was achieved with 
PO pain medication and a lidocaine patch. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO 3X/WEEK (___) 
2. Mirtazapine 15 mg PO QHS 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Simethicone 125 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Polyethylene Glycol 17 g PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Pravastatin 10 mg PO QPM 
9. TraMADol 50 mg PO BID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Please do not exceed 3 grams in a 24 hour period. 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QAM 
Please apply to affected area. On for 12 hours. Off for 12 
hours. 
RX *lidocaine [Lidocaine Pain Relief] 4 % apply 1 patch to 
ribcage in the morning Disp #*15 Patch Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) mg by mouth every six (6) 
hours Disp #*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*20 Tablet Refills:*0 
5.  Aspirin 81 mg PO 3X/WEEK (___)  
6.  Clopidogrel 75 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Levothyroxine Sodium 50 mcg PO DAILY  
9.  Mirtazapine 15 mg PO QHS  
10.  Polyethylene Glycol 17 g PO DAILY  
11.  Pravastatin 10 mg PO QPM  
12.  Simethicone 125 mg PO BID  
13.  TraMADol 50 mg PO BID:PRN Pain - Moderate 
Please take lowest effective dose and wean as tolerated. 
RX *tramadol 50 mg 1 tablet(s) by mouth twice a day Disp #*15 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right ___ rib fractures
T4-7 transverse process fractures
T7, T8, L3 compression fractures (chronic)
T6 vertebral body fracture (chronic)  
 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital after you sustained a fall. You were 
admitted for close observation because imaging done showed that 
you had right rib fractures and chronic spine fractures. The 
neurosurgery spine team was consulted and they do not believe 
you need any intervention or follow up regarding your spinal 
fractures. After working with physical therapy a few times, they 
cleared you to go home with 24 hour care, which you already 
have. You have been ambulating with assistance, tolerating a 
regular diet, and your pain has been well-controlled on oral 
pain medications. Thus, you are ready to be discharged home to 
continue your recovery. Please follow the discharge instructions 
below:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

* Your injury caused right ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___